US04006245
A mixture of 1.07 parts of 2-ethyl-3-(3-[2-propylphenoxy] propoxy)phenoxyfumaric acid and 1 part of concentrated sulphuric acid was shaken at room temperature for seventeen hours, then 25 parts of water were added. The resulting solution was made basic by addition of excess sodium carbonate, then re-acidified with 2N hydrochloric acid and extracted with ethyl acetate. Evaporation of the ethyl acetate under reduced pressure gave an oil which on trituration with acetone gave 0.674 parts of 8-ethyl-4-oxo-7-(3-[2-propylphenoxyl]propoxy)-4H-1-benzopyran-2-carboxylic acid, m.pt. 198°-199°.

reactant | 2-ethyl-3-(3-[2-propylphenoxy] propoxy)phenoxyfumaric acid | C(C)C1=C(O/C(/C(=O)O)=C\C(=O)O)C=CC=C1OCCCOC1=C(C=CC=C1)CCC | C24H28O7
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
product | 8-ethyl-4-oxo-7-(3-[2-propylphenoxyl]propoxy)-4H-1-benzopyran-2-carboxylic acid | C(C)C1=C(C=CC=2C(C=C(OC21)C(=O)O)=O)OCCCOC2=C(C=CC=C2)CCC | C24H26O6
